US07745641B2
In a similar manner to Step 11 of Example 137, 3-methoxymethoxy-4-methoxybenzoic acid (6.41 g, 30.2 mmol) was dissolved in DMF (100 mL), and the solution was treated with EDCI (5.75 g, 30.0 mmol), HOBT monohydrate (4.05 g, 30.0 mmol) and cumylamine (8.63 mL, 60.0 mmol). The reaction mixture was added with water. The precipitated solid was collected by filtration and washed with water, followed by drying under reduced pressure to obtain 3-methoxymethoxy-4-methoxy-N-(1-methyl-1-phenylethyl)benzamide (7.89 g, yield 80%).

reactant | 3-methoxymethoxy-4-methoxybenzoic acid | 30.2 mmol, 6.41 g | COCOC=1C=C(C(=O)O)C=CC1OC | C10H12O5
reactant | EDCI | 30.0 mmol, 5.75 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT monohydrate | 30.0 mmol, 4.05 g | C1=CC=C2C(=C1)N=NN2O.O
reactant | cumylamine | 60.0 mmol, 8.63 mL | C(C)(C)(C1=CC=CC=C1)N | C9H13N
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-methoxymethoxy-4-methoxy-N-(1-methyl-1-phenylethyl)benzamide | 7.89 g, yield 80% | COCOC=1C=C(C(=O)NC(C)(C2=CC=CC=C2)C)C=CC1OC | C19H23NO4
